* CMOS Inverter ver.1
* designed by Hoge Hoge,
* 1/1/2000

.include './mos_PTS06.lib'

**** Netlist ****
VDD   1 0 DC 3.3V
VX    3 0 DC 0V
VCM1  5 0 DC 0V
VCM2  1 2 DC 0V
M1    4 3 5 5 NMOS_OR1 
+L=0.5u W=1.0u AD=1.5p AS=1.5p
M2    4 3 2 2 PMOS_OR1 
+L=0.5u W=2.5u AD=3.75p AS=3.75p
CL    4 0 10fF

**** Simulation ****
.OP
.OPTION LIST POST NODE
.TEMP 25
.END
