*

.subckt tb_vco_k7
+       In ; input
+       OUT0 ; output
+       VDD ; input
+       VSS ; input


.include /home/ryos/Project/MakeLSI/MakeLSI.git/2023/tb_vco_k7/mos_PTS06.lib
.tran 1n 1000ns
.ic V(OUT0)=5

M33 X Net-_M30-D_ VSS VSS NMOS_OR1 l=1u w=2u
M32 X Net-_M30-D_ VDD VDD PMOS_OR1 l=1u w=6u
V2 In VSS DC 4.9 
V1 VDD VSS DC 5 
M28 Net-_M28-D_ Net-_M26-D_ VDD VDD PMOS_OR1 l=1u w=6u
M30 Net-_M30-D_ Net-_M28-D_ VDD VDD PMOS_OR1 l=1u w=6u
M31 Net-_M30-D_ Net-_M28-D_ VSS VSS NMOS_OR1 l=1u w=2u
M25 Net-_M24-D_ X VSS VSS NMOS_OR1 l=1u w=2u
M29 Net-_M28-D_ Net-_M26-D_ VSS VSS NMOS_OR1 l=1u w=2u
M27 Net-_M26-D_ Net-_M24-D_ VSS VSS NMOS_OR1 l=1u w=2u
M24 Net-_M24-D_ X VDD VDD PMOS_OR1 l=1u w=6u
M26 Net-_M26-D_ Net-_M24-D_ VDD VDD PMOS_OR1 l=1u w=6u
M4 Net-_M1-S_ Net-_M4-G_ VDD Net-_M4-B_ PMOS_OR1 l=1u w=6u
M5 Net-_M4-G_ Net-_M4-G_ VDD VDD PMOS_OR1 l=1u w=6u
M6 Net-_M4-G_ Net-_M4-G_ Net-_M6-S_ VSS NMOS_OR1 l=1u w=2u
M8 Net-_M8-D_ Net-_M4-B_ VDD Net-_M12-G_ PMOS_OR1 l=1u w=6u
M9 Net-_M10-D_ Net-_M1-D_ Net-_M8-D_ VDD PMOS_OR1 l=1u w=6u
M1 Net-_M1-D_ OUT0 Net-_M1-S_ VDD PMOS_OR1 l=1u w=6u
M16 Net-_M16-D_ Net-_M12-B_ VDD Net-_M16-B_ PMOS_OR1 l=1u w=6u
M12 Net-_M12-D_ Net-_M12-G_ VDD Net-_M12-B_ PMOS_OR1 l=1u w=6u
M13 Net-_M13-D_ Net-_M10-D_ Net-_M12-D_ VDD PMOS_OR1 l=1u w=6u
M17 Net-_M17-D_ Net-_M13-D_ Net-_M16-D_ VDD PMOS_OR1 l=1u w=6u
M2 Net-_M1-D_ OUT0 Net-_M2-S_ VSS NMOS_OR1 l=1u w=2u
M3 Net-_M2-S_ Net-_M3-G_ VSS Net-_M11-G_ NMOS_OR1 l=1u w=2u
M7 Net-_M6-S_ In VSS Net-_M3-G_ NMOS_OR1 l=1u w=2u
M22 OUT0 Net-_M17-D_ Net-_M22-S_ VSS NMOS_OR1 l=1u w=2u
M23 Net-_M22-S_ Net-_M19-B_ VSS VSS NMOS_OR1 l=1u w=2u
M19 Net-_M18-S_ Net-_M15-B_ VSS Net-_M19-B_ NMOS_OR1 l=1u w=2u
M18 Net-_M17-D_ Net-_M13-D_ Net-_M18-S_ VSS NMOS_OR1 l=1u w=2u
M10 Net-_M10-D_ Net-_M1-D_ Net-_M10-S_ VSS NMOS_OR1 l=1u w=2u
M11 Net-_M10-S_ Net-_M11-G_ VSS Net-_M11-B_ NMOS_OR1 l=1u w=2u
M14 Net-_M13-D_ Net-_M10-D_ Net-_M14-S_ VSS NMOS_OR1 l=1u w=2u
M15 Net-_M14-S_ Net-_M11-B_ VSS Net-_M15-B_ NMOS_OR1 l=1u w=2u
M20 Net-_M20-D_ Net-_M16-B_ VDD VDD PMOS_OR1 l=1u w=6u
M21 OUT0 Net-_M17-D_ Net-_M20-D_ VDD PMOS_OR1 l=1u w=6u

.ends
